US04374248
3,4-Bis-{2-[(2-guanidinothiazol-4-yl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide
To a solution of sodium methoxide (2.16 g; 40.0 mmoles) in 100 ml of CH3OH that was cooled to 0° in an ice-water bath was added 2-[(2-guanidinothiazol-4-yl)methylthio]ethylamine dihydrochloride (6.09 g; 20.0 mmoles) and, after 20 minutes of stirring, the solution was treated with 3,4-dimethoxy-1,2,5-thiadiazole 1-oxide (1.62 g; 10 mmoles). The reaction mixture was stirred at ambient temperature for 65 hours and evaporated under reduced pressure. The residue was chromatographed on 100 g of silica gel (230-400 mesh) by flash chromatography using a gradient elution of acetonitrile-methanol. The appropriate fractions were combined, evaporated and the residue chromatographed on a Preparative HPLC system using μ-porasil silica gel. The appropriate fractions were combined, and evaporated under reduced pressure to give the title compound as an amorphous solid; the NMR spectrum (100 MHz) in d6 dimethyl sulfoxide showed the presence of approximately 0.11 mole of ethanol.

reactant | sodium methoxide | 40.0 mmoles, 2.16 g | C[O-].[Na+]
reactant | 2-[(2-guanidinothiazol-4-yl)methylthio]ethylamine dihydrochloride | 20.0 mmoles, 6.09 g | Cl.Cl.N(C(=N)N)C=1SC=C(N1)CSCCN
reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1-oxide | 10 mmoles, 1.62 g | COC1=NS(N=C1OC)=O | C4H6N2O3S
solvent | CH3OH | 100 ml | CO | CH4O
product | 3,4-Bis-{2-[(2-guanidinothiazol-4-yl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide | N(C(=N)N)C=1SC=C(N1)CSCCNC1=NS(N=C1NCCSCC=1N=C(SC1)NC(=N)N)=O | C16H24N12OS5
